US07772432B2
4-chloro-3-(6-chloropyrid-3-ylcarbonylamino)-N-(3-fluoro-5-morpholinophenyl)benzamide
A mixture of 6-chloropyrid-3-ylcarbonyl chloride (1.96 g), 3-amino-4-chloro-N-(3-fluoro-5-morpholinophenyl)benzamide (3 g) and pyridine (20 ml) was stirred and heated to 100° C. for 4 hours. The mixture was cooled to ambient temperature. Water and diethyl ether were added. The resultant precipitate was washed with a saturated aqueous sodium bicarbonate solution and with methanol. There was thus obtained the title compound (3.8 g); NMR Spectrum: (DMSOd6) 3.1 (t, 4H), 3.75 (t, 4H), 6.52 (d, 1H), 7.1 (s, 1H), 7.2 (d, 1H), 7.6-7.7 (m, 2H), 7.7-7.8 (m, 1H), 8.2 (d, 1H), 8.35-8.4 (m, 1H), 8.97 (d, 1H), 10.2-10. 32 (br S, 1H); Mass Spectrum: M+H+ 489.

reactant | 6-chloropyrid-3-ylcarbonyl chloride | 1.96 g | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
reactant | 3-amino-4-chloro-N-(3-fluoro-5-morpholinophenyl)benzamide | 3 g | NC=1C=C(C(=O)NC2=CC(=CC(=C2)N2CCOCC2)F)C=CC1Cl | C17H17ClFN3O2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-chloro-3-(6-chloropyrid-3-ylcarbonylamino)-N-(3-fluoro-5-morpholinophenyl)benzamide | 3.8 g | ClC1=C(C=C(C(=O)NC2=CC(=CC(=C2)N2CCOCC2)F)C=C1)NC(=O)C=1C=NC(=CC1)Cl | C23H19Cl2FN4O3
